US07572820B2
B. 1-(Cyclopropylmethyl)-2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile and (bromomethyl)cyclopropane. 1H NMR (400 MHz, CDCl3) δ 7.50 (d, J=9.2 Hz, 1H), 7.48 (d, J=9.2 Hz, 1H), 6.56 (d, J=1.7 Hz, 1H), 4.05 (d, J=6.6 Hz, 2H), 2.67 (t, J=7.1 Hz, 2H), 2.07 (m, 1H), 1.15 (m, 1H), 1.03 (d, J=6.6 Hz, 6H), 0.58 (m, 2H), 0.35 (m, 2H); MS (ES) m/z 321 (M+1).

reactant | 2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC(CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N)C | C14H13F3N2
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | 1-(Cyclopropylmethyl)-2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(CC1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CC(C)C | C18H19F3N2
